US04870074
Preparation of 4-amino-5-chloro-N-[[4-(2-chlorobenzyl)-2-morpholinyl]methyl]-2-ethoxybenzamide N-oxide
To a stirred solution of 4-amino-5-chloro-N-[[4-(2-chlorobenzyl)-2-morpholinyl]methyl]-2-ethoxybenzamide (4.0 g) in methanol (150 ml) is added 30% aqueous hydrogen peroxide (1.2 g). After the mixture is heated under reflux for 8 hours, an additional 30% aqueous hydrogen peroxide (1.2 g) is added, and the reaction mixture is refluxed with stirring for an additional 24 hours. The solvent is distilled off under reduced pressure, and chloroform and water are added to the residue. The mixture is stirred for about 30 minutes. The precipitate is collected and recrystallized from isopropyl alcohol-diisopropyl ether to give the title compound (0.6 g), mp 154°-157° C.

reactant | 4-amino-5-chloro-N-[[4-(2-chlorobenzyl)-2-morpholinyl]methyl]-2-ethoxybenzamide | 4.0 g | NC1=CC(=C(C(=O)NCC2CN(CCO2)CC2=C(C=CC=C2)Cl)C=C1Cl)OCC | C21H25Cl2N3O3
reactant | hydrogen peroxide | 1.2 g | OO | H2O2
reactant | hydrogen peroxide | 1.2 g | OO | H2O2
solvent | methanol | 150 ml | CO | CH4O
product | 4-amino-5-chloro-N-[[4-(2-chlorobenzyl)-2-morpholinyl]methyl]-2-ethoxybenzamide N-oxide | 0.6 g | NC1=CC(=C(C(=O)[NH+](CC2CN(CCO2)CC2=C(C=CC=C2)Cl)[O-])C=C1Cl)OCC | C21H25Cl2N3O4
